US07582651B2
(1) 2-formyl-4,6-dimethyl-1-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile
To a solution of diisopropylamine (3.72 ml, 28.4 mmol) in tetrahydrofuran (36 ml) was added a 1.6 N solution of butyllithium in hexane (17.7 ml, 28.4 mmol) at −78° C., and the mixture was stirred at −78° C. for 15 minutes. To the resultant solution was added dropwise 4,6-dimethyl-1-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (5.70 g, 18.9 mmol) in THF (60 ml) at −78° C., and the mixture was stirred at −78° C. for 30 minutes. Dimethylformamide (5.37 ml, 56.7 mmol) was added thereto, and the mixture was stirred at room temperature 1.5 hours, poured into iced water, and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to give the objective product as oily matter.

reactant | diisopropylamine | 28.4 mmol, 3.72 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 28.4 mmol, 17.7 ml | CCCCCC | C6H14
reactant | 4,6-dimethyl-1-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 18.9 mmol, 5.70 g | CC1=C2C(=NC(=C1)C)N(C=C2C#N)[C@@H]2CCCC1=CC=CC=C21 | C20H19N3
reactant | Dimethylformamide | 56.7 mmol, 5.37 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-formyl-4,6-dimethyl-1-[(1R)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | C(=O)C1=C(C=2C(=NC(=CC2C)C)N1[C@@H]1CCCC2=CC=CC=C12)C#N | C21H19N3O
